US04921529
13.2 g (0.1 mol) of phenyl propargyl ether are added dropwise to a mixture of 10.1 g (0.1 mol) of triethylamine and 1.43 g of copper-(I) bromide in 60 ml of toluene at 20° C., under a nitrogen atmosphere and with stirring. The mixture is subsequently stirred at 20° C. for 30 minutes. Thereafter, 12 g (0.1 mol) of pivaloyl chloride are added dropwise in the course of 15 minutes. The reaction mixture is heated to 80° C. and is stirred at this temperature for 10 hours. After cooling to room temperature, the reaction mixture is washed first with dilute aqueous hydrochloric acid and then with water. The organic phase is concentrated by stripping off the solvent and the residue which remains is distilled under a high vacuum. 16 g (75% of theory) of 2,2-dimethyl-6-phenoxyhex-4-in-3-one are obtained in this manner in the form of a liquid.

reactant | phenyl propargyl ether | 0.1 mol, 13.2 g | C(C#C)OC1=CC=CC=C1 | C9H8O
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.1 mol, 12 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper-(I) bromide | 1.43 g | [Cu]Br
product | 2,2-dimethyl-6-phenoxyhex-4-in-3-one | 16 g, 75% | CC(C)(C(C#CCOC1=CC=CC=C1)=O)C | C14H16O2
